US05962682
Analogously to Example 74, by condensing 3-(benzo[1,3]-dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-(2-hydroxy-ethoxy)-benzoic acid with aniline there was obtained 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-(2-hydroxy-ethoxy)-N-phenyl-benzamide.

reactant | 3-(benzo[1,3]-dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-(2-hydroxy-ethoxy)-benzoic acid | O1COC2=C1C=CC(=C2)S(=O)(=O)NC=2C=C(C(=O)O)C=C(C2OC2=C(C=CC(=C2)OC)Cl)OCCO | C23H20ClNO10S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-(benzo[1,3]dioxol-5-sulphonylamino)-4-(2-chloro-5-methoxy-phenoxy)-5-(2-hydroxy-ethoxy)-N-phenyl-benzamide | O1COC2=C1C=CC(=C2)S(=O)(=O)NC=2C=C(C(=O)NC1=CC=CC=C1)C=C(C2OC2=C(C=CC(=C2)OC)Cl)OCCO | C29H25ClN2O9S
